US08071592B2
(h) 1,1-Dimethylethyl {1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate
(7-Fluoro-2-oxo-1(2H)-quinolinyl)acetaldehyde (0.50 g, 2.41 mmol) (for a preparation see Example 88(a)) was combined with 1,1-dimethylethyl 4-piperidinylcarbamate (0.48 g, 2.41 mmol) in 1:1 MeOH/DCM (20 mL). Excess Na2SO4 was added as a drying agent and the solution was stirred at ambient temperature for 16 h. NaBH(OAc)3 (1.53 g, 7.23 mmol) was added and the reaction was stirred an additional 2 h. The solution was concentrated onto silica gel under vacuum and the crude residue purified by column chromatography (silica gel) using a DCM/DCM-MeOH—NH4OH (90:10:1) gradient to yield the desired product as a yellow solid (0.678 g, 72%).

reactant | (7-Fluoro-2-oxo-1(2H)-quinolinyl)acetaldehyde | 2.41 mmol, 0.50 g | FC1=CC=C2C=CC(N(C2=C1)CC=O)=O | C11H8FNO2
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 2.41 mmol, 0.48 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 7.23 mmol, 1.53 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH DCM | 20 mL | CO.C(Cl)Cl
product | 1,1-Dimethylethyl {1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate | 0.678 g, 72% | FC1=CC=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H28FN3O3
